US04562210
N-[2-(1,2-Dichlorovinyloxy)phenylsulfonyl]-N'-methylthiourea
13.4 g of 2-(1,2-dichlorovinyloxy)phenylsulfonamide and 3.65 g of methyl isothiocyanate are dissolved in 50 ml of acetonitrile, and 7.8 g of 1,8-diazabicyclo[5.4.0]undec-7-ene are added with cooling (0° to 5° C.) and stirring. The resulting red reaction solution is left to stand for 24 hours, 4.8 g of methanesulfonic acid are then added and the mixture is diluted with water to a volume of 1 liter. The crystals which separate out are filtered off, washed with methanol and dried. Yield: 15 g. Melting point: 185°-187° (decomposition).

reactant | 2-(1,2-dichlorovinyloxy)phenylsulfonamide | 13.4 g | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)N | C8H7Cl2NO3S
reactant | methyl isothiocyanate | 3.65 g | CN=C=S | C2H3NS
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7.8 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methanesulfonic acid | 4.8 g | CS(=O)(=O)O | CH4O3S
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | N-[2-(1,2-Dichlorovinyloxy)phenylsulfonyl]-N'-methylthiourea | ClC(=CCl)OC1=C(C=CC=C1)S(=O)(=O)NC(=S)NC | C10H10Cl2N2O3S2
